* G:\Repositories\microsps\pcbs\Simulationen\Draft1.asc
Q2 Vg P001 0 0 BC847B
V1 NC_01 0 5
V2 Vin 0 PULSE(0 5 0.5 0 0 0.5 1 1)
R3 N001 Vg 10k
R4 P001 Vin 10k
M1 Vout Vg 0 0 BUK9219-55A
V3 N001 0 24
M2 Vout Vg N001 N001 RSJ250P10
.model NPN NPN
.model PNP PNP
.lib C:\Users\synth\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\synth\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
