* G:\Repositories\microsps\pcbs\Simulationen\analog_in.asc
XU1 N003 N004 N005 0 N004 LT1013
XU2 N002 N001 N005 0 N001 LT1013
R1 N003 0 11k
R2 N001 N003 16k
V1 N005 0 24
V2 N002 0 1
I1 0 NC_01 0
R3 N002 P001 300
R4 P001 NC_02 200
C1 N002 0 10n
C2 N001 0 10p
C3 N003 0 10n
C4 N004 0 10p
.dc V2 0 11
.lib LTC.lib
.backanno
.end
